US04870074
Preparation of 2-aminomethyl-4-(4-fluorobenzyl)morpholine
A solution of 2-acetylaminomethyl-4-(4-fluorobenzyl)morpholine (3.0 g) in 10% hydrochloric acid (50 ml) is refluxed with stirring for 4 hours. The reaction mixture is adjusted to pH 11 with aqueous sodium hydroxide solution and extracted with chloroform. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. Removal of the solvent under reduced pressure gives the title compound as an oil.

reactant | 2-acetylaminomethyl-4-(4-fluorobenzyl)morpholine | 3.0 g | C(C)(=O)NCC1CN(CCO1)CC1=CC=C(C=C1)F | C14H19FN2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-aminomethyl-4-(4-fluorobenzyl)morpholine | NCC1CN(CCO1)CC1=CC=C(C=C1)F | C12H17FN2O
